US06642395B1
Preparation of (R)-3-chlorostyrene Oxide
Into toluene (1,000 ml) were added (R)-3-chloromandelic acid (10 g) and p-toluenesulfonic acid (0.2 g), and the resulting mixture was stirred at 70° C. for 2 hours. The solvent was distilled off under reduced pressure. To the residue were added toluene (100 ml) and then, under ice-cooling and dropwise, 3,4-dihydro-2H-pyran (5.0 g), and the resulting mixture was stirred at the same temperature for 1 hour. The reaction mixture was washed with a saturated aqueous sodium hydrogen carbonate solution, then the organic layer was further washed with a saturated aqueous sodium chloride solution and dried with anhydrous magnesium sulfate. The desiccant was filtered off and then a 70% sodium dihydrobis(2-methoxyethoxy)aluminate toluene solution (16.7 g) was dropwise added to the filtrate with ice-cooling. The resulting mixture was stirred at the same temperature for 1 hour. The reaction mixture was added into a 30% aqueous (+)−potassium sodium tartrate solution (60.0 g), stirred for 1 hour and then the organic layer was separated. The organic layer obtained was washed with water and further with a saturated aqueous sodium chloride solution and then dried with anhydrous magnesium sulfate. The desiccant was filtered off. Then, to the filtrate were added triethylamine (10.8 g) and, under ice-cooling and dropwise, methanesulfonyl chloride (6.42 g). The resulting mixture was stirred at the same temperature for 1 hour, the reaction mixture was washed with water, then methanol (20 ml) and p-toluenesulfonic acid (10.4 g) were added thereto, and the resulting mixture was stirred at 50° C. for 1 hour. The reaction mixture was washed with water, then a 20% aqueous NaOH solution (40 g) was added thereto under ice-cooling, and the resulting mixture was stirred at the same temperature for 2 hours. The reaction mixture was washed with water, further the organic layer was washed with a saturated aqueous sodium chloride solution and dried with anhydrous magnesium sulfate. The desiccant was filtered off, then the solvent was distilled off under reduced pressure, and the resulting oily substance was distilled under reduced pressure to obtain a colorless oily compound mentioned above (6.6 g, yield 79.7%). The optical purity of the product obtained was 99.9% e.e. as determined by HPLC.

reactant | (R)-3-chloromandelic acid | 10 g | ClC=1C=C([C@H](C(=O)O)O)C=CC1 | C8H7ClO3
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 1,000 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-3-chlorostyrene Oxide | yield 79.7% | ClC=1C=C([C@@H]2CO2)C=CC1 | C8H7ClO
